US04556677
Ethyl 2-ethyl-3-(p-methoxyphenyl)pentanoate
10.7 g (0.038 mol) of ethyl 2-ethyl-3-hydroxy-3-(p-methoxyphenyl)pentanoate were hydrogenated in acetic acid (88 ml) solution in the presence of methanesulfonic acid (7 drops) by using 10% Pd-C as catalyst. The catalyst was filtered off and the solvent was evaporated. The product was dissolved in methylene chloride, washed with diluted potassium carbonate and water and dried. After evaporation of the solvent 9,5 g (97%) of the product as a mixture of erythro and threo diastereomers were obtained.

reactant | ethyl 2-ethyl-3-hydroxy-3-(p-methoxyphenyl)pentanoate | 0.038 mol, 10.7 g | C(C)C(C(=O)OCC)C(CC)(C1=CC=C(C=C1)OC)O | C16H24O4
solvent | acetic acid | 88 ml | C(C)(=O)O | C2H4O2
catalyst | methanesulfonic acid | 7 drops | CS(=O)(=O)O | CH4O3S
catalyst | Pd-C | [Pd] | Pd
product | Ethyl 2-ethyl-3-(p-methoxyphenyl)pentanoate | C(C)C(C(=O)OCC)C(CC)C1=CC=C(C=C1)OC | C16H24O3
